US06416733B1
Synthesis of 3-(N-(6-(4,6-diphenyl(2-pyridyloxy))-2,2-dimethylhexyl)carbamoyl)-3-(3-pyridylcarbonylamino)propanoic acid.
A mixture of 3-amino-3-(N-(6-(4,6-diphenyl(2-pyridyloxy))-2,2-dimethylhexyl)carbamoyl)propanoic acid (100 mg, 0.204 mmol), N,N-dimethylformamide (2 mL), and triethylamine (0.1 mL) was stirred at room temperature for 5 min. Succinimidyl nicotinate (69 mg, 0.315 mmol) was added, and the mixture was stirred for 18 h. The mixture was concentrated under high vacuum, and the residue was purified using reverse-phase HPLC (water-acetonitrile gradient containing 0.1% TFA) to afford 23 mg (19%) of a white powdered solid. ESMS: Calculated for C35H38N4O5, 594.2842 Found 595.2 [M+H]+1; Rt=15.597 min (100% pure, Vydac C18 column; gradient 20 to 100% acetonitrile/water+0.1% TFA over 30 min).

reactant | 3-amino-3-(N-(6-(4,6-diphenyl(2-pyridyloxy))-2,2-dimethylhexyl)carbamoyl)propanoic acid | 0.204 mmol, 100 mg | NC(CC(=O)O)C(NCC(CCCCOC1=NC(=CC(=C1)C1=CC=CC=C1)C1=CC=CC=C1)(C)C)=O | C29H35N3O4
reactant | N,N-dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
reactant | triethylamine | 0.1 mL | C(C)N(CC)CC | C6H15N
reactant | Succinimidyl nicotinate | 0.315 mmol, 69 mg | C(C1=CN=CC=C1)(=O)ON1C(CCC1=O)=O | C10H8N2O4
solvent | acetonitrile water | C(C)#N.O
product | 3-(N-(6-(4,6-diphenyl(2-pyridyloxy))-2,2-dimethylhexyl)carbamoyl)-3-(3-pyridylcarbonylamino)propanoic acid | C1(=CC=CC=C1)C1=CC(=NC(=C1)C1=CC=CC=C1)OCCCCC(CNC(=O)C(CC(=O)O)NC(=O)C=1C=NC=CC1)(C)C | C35H38N4O5
